### PR TITLE
[Merged by Bors] - chore: golf using `contrapose` for `↔`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR golfs some proofs to use the new `↔` support in the `contrapose`/`contrapose!` tactic.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
!bench

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean [hunk 1]
```diff
@@ -68,11 +68,7 @@ theorem IsTrail.even_countP_edges_iff {u v : V} {p : G.Walk u v} (ht : p.IsTrail
           and_iff_right_iff_imp]
         rintro rfl rfl
         exact G.loopless _ huv
-      · rw [Nat.even_add_one, ih, ← not_iff_not]
-        simp only [huv.ne.symm, Ne, not_true, false_and, not_forall,
-          not_false_iff, exists_prop, and_true, Classical.not_not, true_and, iff_and_self]
-        rintro rfl
-        exact huv.ne
+      · have := huv.ne; grind
```
Comment (grunweg) [inline Mathlib/Combinatorics/SimpleGraph/Trails.lean:71]: Can you confirm that this proof is at least not visibly slow?

File: Mathlib/RingTheory/Flat/FaithfullyFlat/Basic.lean [hunk 2]
```diff
@@ -225,12 +225,12 @@ lemma subsingleton_tensorProduct_iff_left [Module.FaithfullyFlat R N] :
 @[simp]
 lemma nontrivial_tensorProduct_iff_right [Module.FaithfullyFlat R M] :
     Nontrivial (M ⊗[R] N) ↔ Nontrivial N := by
-  simp [← not_iff_not, not_nontrivial_iff_subsingleton]
+  contrapose!; exact subsingleton_tensorProduct_iff_right R M
```
Comment (grunweg) [inline Mathlib/RingTheory/Flat/FaithfullyFlat/Basic.lean:228]: Golfs like these are in the eyes of the beholder. I don't mind them, though.

**Review by grunweg — COMMENTED** [review]
Thanks!
bors d+
